US08314087B2
1-(2-Hydroxyethyl)-5-(4-methylthiophen-2-yl)pyrazin-2(1H)-one.
5-Bromo-1-(2-hydroxyethyl)pyrazin-2(1H)-one (199.6 mg, 911 μmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (66.6 mg, 91 μmol), and 4-methylthiophen-2-ylboronic acid (253.7 mg, 1787 μmol) were suspended in DME (5.0 mL) and sodium carbonate (1.2 mL, 2.0 M in water, 2.4 mmol) was added. The reaction flask was fit with a reflux condensor and placed in a preheated oil bath (85° C.) and stirred under argon for 1 hour The reaction was then cooled to room temperature and quenched with saturated sodium bicarbonate (5 mL) and allowed to stand at room temperature overnight. It was then extracted with CH2Cl2 and with 10:1 CH2Cl2/MeOH, and the organic extracts were combined, dried over sodium sulfate, filtered, concentrated, and filtered through silica gel (30:1 CH2Cl2/MeOH) to afford the desired product (110.6 mg, 0.468 mmol, 51% yield). MS (ESI pos. ion) m/z (MH+): 237. Calc'd exact mass for C11H12N2O2S: 236. 1H NMR (400 MHz, CDCl3): 8.21 (s, 1H), 7.53 (s, 1H), 7.12 (s, 1H), 6.88 (s, 1H), 4.14 (t, J=5.0 Hz, 2H), 4.02 (q, J=5.0 Hz, 2H), 2.33 (s, 1H, J=5.0 Hz, 1H), 2.28 (s, 3H).

reactant | 5-Bromo-1-(2-hydroxyethyl)pyrazin-2(1H)-one | 911 μmol, 199.6 mg | BrC=1N=CC(N(C1)CCO)=O | C6H7BrN2O2
reactant | 4-methylthiophen-2-ylboronic acid | 1787 μmol, 253.7 mg | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | sodium carbonate | 2.4 mmol, 2.0 M, 1.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 5.0 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 91 μmol, 66.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(2-Hydroxyethyl)-5-(4-methylthiophen-2-yl)pyrazin-2(1H)-one | 0.468 mmol, 110.6 mg, 51% yield | OCCN1C(C=NC(=C1)C=1SC=C(C1)C)=O | C11H12N2O2S
